US04785010
1-(2-Acetylamino-ethyl)-2-(phthalimido-methyl)-5-methyl-pyrrole
4.6 g (0.018 mol) of 6-phthalimido-2,5-hexanedione and 1.8 g (0.018 mol) of 2-(acetylamino)-ethylamine are stirred in 120 ml of acetic acid at 80° C. for 4 hours. Working up is carried out as described in Example 1:

reactant | 6-phthalimido-2,5-hexanedione | 0.018 mol, 4.6 g | C1(C=2C(C(N1CC(CCC(C)=O)=O)=O)=CC=CC2)=O | C14H13NO4
reactant | 2-(acetylamino)-ethylamine | 0.018 mol, 1.8 g | C(C)(=O)NCCN | C4H10N2O
solvent | acetic acid | 120 ml | C(C)(=O)O | C2H4O2
product | 1-(2-Acetylamino-ethyl)-2-(phthalimido-methyl)-5-methyl-pyrrole | C(C)(=O)NCCN1C(=CC=C1C)CN1C(C=2C(C1=O)=CC=CC2)=O | C18H19N3O3
